US07157454B2
A) 3-(tert-Butoxycarbonylamino)-3-phenylpropionic acid
8.3 ml of triethylamine are added to a mixture of 8.3 g of 3-amino-3-phenylpropionic acid in 35 ml of water and 5 ml of dioxane, followed by addition, over 30 minutes, of a solution of 12.8 g of di-tert-butyl dicarbonate in 25 ml of dioxane, and the mixture is stirred overnight at RT. The reaction mixture is diluted with water, the aqueous phase is washed with ether and acidified to pH 2.5 by adding 2N HCl, and extracted with EtOAc, the organic phase is washed with water, with saturated NaCl solution and dried over Na2SO4, and the solvent is evaporated off under vacuum. 12.4 g of the expected product are obtained.

reactant | triethylamine | 8.3 ml | C(C)N(CC)CC | C6H15N
reactant | 3-amino-3-phenylpropionic acid | 8.3 g | NC(CC(=O)O)C1=CC=CC=C1 | C9H11NO2
reactant | di-tert-butyl dicarbonate | 12.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 35 ml | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 3-(tert-Butoxycarbonylamino)-3-phenylpropionic acid | 12.4 g | C(C)(C)(C)OC(=O)NC(CC(=O)O)C1=CC=CC=C1 | C14H19NO4
